US07488832B2
A solution of 3.0 g (9.6 mmol) 2-(4-propyl-cyclohexanecarbonyl)-malonic acid diethyl ester and 0.3 g p-toluenesulfonic acid in 30 mL water was heated to reflux for 3 hr and allowed to stand at room temperature over 3 nights. The reaction was diluted with brine, extracted with ethyl acetate, dried over MgSO4, and concentrated to afford 1.92 g (7.98 mmol) 3-oxo-3-(4-propyl-cyclohexyl)-propionic acid ethyl ester as a clear oil.

reactant | 2-(4-propyl-cyclohexanecarbonyl)-malonic acid diethyl ester | 9.6 mmol, 3.0 g | C(C)OC(C(C(=O)OCC)C(=O)C1CCC(CC1)CCC)=O | C17H28O5
reactant | p-toluenesulfonic acid | 0.3 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | 30 mL | O | H2O
solvent | brine | [Cl-].[Na+].O
product | 3-oxo-3-(4-propyl-cyclohexyl)-propionic acid ethyl ester | 7.98 mmol, 1.92 g | C(C)OC(CC(C1CCC(CC1)CCC)=O)=O | C14H24O3
